Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Agitation, seizure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ y/o M with a hx of intractable seizures on 
multiple meds and with recent placement of vagal nerve 
stimulator who presents after having been found to be shaking, 
"dizzy" and combative at his home today. He called a family 
member saying he did not feel well, and he was found shaking, 
unable to stop on his own, and was brought to the ED

Also of note, he is currently on an abx being treated for 
diverticulitis. He has been on augmentin for this for an unclear 
amount of time, likely since ___, the time of his first CT 
showing acute diverticulitis.

The patient does not remembers dates and exact sequential onset 
of symptoms. He has had diarrhea, and thinks it probably started 
after Abx use, but isnt sure.

In the ED, He was extremely agitated, thrashing and using 
profane language. he recieved 2mg Ativan IV x2. He also got 
flagyl and cipro IV in the ED.
 
Past Medical History:
- intractable seizures
- s/p VNS (___)
- h/o post-op psychosis and behavioral problems post anesthesia
- Meningitis at 6 months old
- Left temporal head trauma with brief LOC at ___ yo
- h/o Arm fracture
- h/o Left orbital fracture--> required surgical repair and had
residual visual defects
- Near drowning in ___
- s/p Left leg amputation s/p prosthesis
 
Social History:
___
Family History:
Father has pacemaker @ ___ yo; healthy mother & two sisters. No 
family history of epilepsy, vertigo, other neurologic disease.  
Born in ___, of ___ ancestry, no consanguinity.

 
Physical Exam:
Vitals: T: 98.1 BP: 134/88 P: 70 RR: 22 O2Sat: 98% 2L
Gen: No acute distress
HEENT: EOMI, left pupil dilated (secondary to injury), but 
reactive to light. rt reactive to light.
Neck: supple. no LAD
CV: RRR, nl s1 s2, no g/r/m
Lungs: clear to ausc, very slow inspiration and expiration 
secondary to yogic breathing.
ABd: +BS. tender to palp throughout, esp RLQ. +BS. no HSM. no 
rebounnd tenderness
Extremities: below knee amp left leg
Neuro: please see neuro note for detailed neuro exam.
 
Pertinent Results:
___ abdomen/pelvis CT with contrast
IMPRESSION:
1. Interval progression of inflammatory stranding in the left 
lower quadrant along a hyperenhancing area of sigmoid colon with 
multiple diverticula and seberal foci of extraluminal air 
consistent with diverticulitis with microperforation. No 
drainable fluid collections.
2. Prostatic enlargement.
3. Punctate focus of air within the bladder with no CT evidence 
for colonic vesicular fistula. Findings may relate to recent 
instrumentation. Clinical correlation is recommended.
.
CXR ___
FINDINGS: Single bedside AP examination labeled "upright at 
13:51" with patient markedly tilted to his right, is compared 
with the most recent study dated ___. A metallic 
neurostimulator device overlies the mid-left hemithorax, as 
before. Bibasilar subsegmental atelectasis and/or scarring, as 
well as multiple old healed right rib fractures with associated 
lateral pleural thickening, are redemonstrated. Allowing for 
this, no acute focal airspace process is identified. There is no 
evidence of CHF.
.
___ Head CT
IMPRESSION: No acute intracranial abnormality.
.

 
Brief Hospital Course:
Assessment: Pt is a ___ y/o M with hx intractable seizures, s/p 
VNS placed ___, who presents to the ED in likely post-ictal 
state, in setting of decreased seizure threshold with 
diverticulitis. CT showing diverticulitis with microperferation.

Hospital Course By Problem:

Diverticulitis: Pt was diagnosed with divertitulitis intially as 
an outpatient, on ___. He had a CT scan at that time. A repeat 
CT on ___ (day of admission), showed progression of disease, 
patient now with microperforation. Surgery was consulted given 
this is complicated diverticulitis. He was put on broad spectrum 
antibiotics, intially zosyn and vancomycin. Vancomycin was 
eventually discontinued given low suspicion for gram positive 
infection on bowel. Patient was on bowel rest, NPO, and on TPN. 
A PICC line was placed for the TPN and IV antibiotics since he 
has poor venous access. Patients abdominal pain improved slowly. 
Once minimal, he was started on a liquid diet, which he 
tolerated, and this was slowly advanced to regular diet. TPN was 
tapered off. Prior to discharge, the patient was switched to PO 
augmentin, which he is to continue for a total of 3 weeks of 
abx, so until ___. He was also seen by nutrition several 
times, including once with his HCP present, to go over changes 
in his diet given his new diagnosis of diverticulitis. 
.
Diarrhea: Patient had small amounts of diarrhea during 
hospitaliztion, which came back positive for clostridium 
dificile. He has a history of difficult to control seizures, so 
flagyl is avoided since it lowers seizure threshold. He was 
started on vancomycin PO 250mg q6h, which he was will continued 
until ___, 2 weeks after augmentin course is done. 
.
Agitation: Patient was agitated in the ED, likely has lower 
seizure threshold given diverticulitus. This may also be 
delerium from infection. On suggestion by epilepsy service, he 
was put on ativan standing and PRN
.
Hx of seizures: patient has significant hx of seizures, has 
vagal nerve stimulator since ___. At this time, he likely has 
lower seizure threshold secondary to infection. He was followed 
by the epilepsy service while in the hospital. Most of 
medications were switched to IV during hospitalization while he 
was NPO. He was continued on the home meds as listed. Levels of 
carbamazipine and phenytoin were checked almost daily and 
bolused and adjusted as needed. He was also placed on standing 
ativan 1mg BID while infected. Once tolerating PO, he was 
switched back to PO meds, and discharged on the medications he 
was admitted on. The Ativan was tapered off on discharge. 
.
Leukocytosis: likely secondary to diverticulitis, resolved. 
UA/UC: negative, blood cx negative, CXR normal.
.
NSVT on tele: asymptomatic, possible that it was interaction 
with vagal nerve stimulator. cardiac enzymes negative. EKG 
normal. no recurrance.
 
Medications on Admission:
CARBAMAZEPINE 200 mg--1 tab bid and 2 tabs at bedtime
DILANTIN 160 mg QAM / 200QPM
LAMICTAL 150 mg--1 tablet(s) by mouth at 4 pm & 2 tabs @ 10pm
Multi-Vitamin W/Minerals --1 capsule(s) by mouth daily
TRILEPTAL 150 mg--1 tablet(s) by mouth daily at 10 am
AUGMENTIN 875/125 PO BID
 
Discharge Medications:
1. Dilantin Kapseal 30 mg Capsule Sig: Two (2) Capsule PO every 
morning.  
2. Dilantin Kapseal 100 mg Capsule Sig: One (1) Capsule PO every 
morning.  
3. Dilantin Kapseal 100 mg Capsule Sig: Two (2) Capsule PO every 
night.  
4. Lamotrigine 150 mg Tablet Sig: One (1) Tablet PO at 4pm 
everday.  
5. Lamotrigine 150 mg Tablet Sig: Two (2) Tablet PO at 10pm.  
6. Carbamazepine 200 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. Carbamazepine 200 mg Tablet Sig: Two (2) Tablet PO QHS (once 
a day (at bedtime)).  
8. Oxcarbazepine 300 mg Tablet Sig: One (1) Tablet PO Q10AM ().  

9. Amoxicillin-Pot Clavulanate 250-125 mg Tablet Sig: Two (2) 
Tablet PO Q8H (every 8 hours) for 12 days: Until ___.
Disp:*80 Tablet(s)* Refills:*0*
10. Vancomycin 250 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 26 days: until ___.
Disp:*110 Capsule(s)* Refills:*0*
11. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) for 5 days: Please take 1 pill twice a day for 2 days; 
and then 1 pill once a day for 3 days after that. (total 5 
days).
Disp:*8 Tablet(s)* Refills:*0*
12. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Diverticulitis
Clostridium Dificile infection

Secondary:
Seizures

 
Discharge Condition:
stable.

 
Discharge Instructions:
You came to the hospital with abdominal pain. A CT scan was done 
of your abdomen and you were found to have diverticulitis. You 
were treated with antibiotics through your IV and bowel rest. 
Once your abdominal pain got better, you were started on a diet. 

.
You have been switched to oral antibiotics, Augmentin, which you 
should take until ___. For the Clostridium Dificile 
infection, you should continue to take the oral Vancomycin until 
___. 
.
You spoked to a nutritionist while you were here about dietary 
restrictions with Diverticulosis. She provided you with 
information sheets about diet. You were intstructed to avoid any 
food with small seeds, including strawberries. Also avoid small 
nuts and popcorn. Also try to slowly increase the fiber in your 
diet. 
.
You should continue the epilepsy regimen you were on prior to 
admission. In addition, you were taking ativan while here, and 
you should taper that off. Please take 1 pill twice a day for 2 
days, and then 1 pill once a day for 3 days after that, and then 
stop taking them. 
.
You should not go to work until after you have been cleared by 
someone in the neurology department or your PCP next week.
.
Please call your PCP or go to the hospital if you experience 
worsening abdominal pain, worsening diarrhea, or increases 
seizures. 
 
Followup Instructions:
___